US06265575B1
Part C. 4-[4-(1-Pyrrolidinyl)-butoxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate Hydrate
Sodium hydride (49 mg of 60% NaH in mineral oil; 1.23 mmol) was suspended in 3 mL of dry DMF in a flame-dried, argon-filled flask. After stirring for 15 min, a solution of 4-(1-pyrrolidinyl)butanol (Part B) in 1 mL of dry DMF was added. After stirring for 15 min and gas evolution had ceased, 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxyl]phenyl]benzo[b]thiophen-3-yl ketone (Part A) (0.2 g; 0.49 mmol) in 1 mL of dry DMF was added. The mixture was stirred at room temperature for 5 h, then poured into 25 mL of water. Extraction was carried out with Etoac (4×25 mL). The combined organics were washed with brine and dried by passage through sodium sulfate. The title compound (0.18 g; 66% yield) was isolated as a colorless oil by flash chromatography on silica gel, eluting with a gradient of EtOAc(100-85%)/Et3N(0-5%)/MeOH(0-10%). Conversion to the dioxalate was effected as in Example 137, Part E.

reactant | Sodium hydride | 1.23 mmol, 49 mg | [H-].[Na+]
reactant | 4-(1-pyrrolidinyl)butanol | N1(CCCC1)CCCCO | C8H17NO
reactant | 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxyl]phenyl]benzo[b]thiophen-3-yl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)F | C27H24FNO2S
reactant | water | 25 mL | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[4-(1-Pyrrolidinyl)-butoxy]phenyl 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl Ketone Dioxalate Hydrate | 0.18 g, 66% yield | O.C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)OCCCCN2CCCC2 | InChI=1S/C35H40N2O3S.2C2H2O4.H2O/c38-34(27-11-15-29(16-12-27)39-25-8-7-23-36-19-3-4-20-36)33-31-9-1-2-10-32(31)41-35(33)28-13-17-30(18-14-28)40-26-24-37-21-5-6-22-37;2*3-1(4)2(5)6;/h1-2,9-18H,3-8,19-26H2;2*(H,3,4)(H,5,6);1H2
